US06825191B2
Step 1: Synthesis of [4-(1-t-butoxycarbonyl-4-piperidyloxy)-phenyl]methanol
2.67 g (8.3 mmol) of 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid and 1.73 ml (12.5 mmol) of triethylamine were dissolved in 50 ml of THF. 0.95 ml (9.9 mmol) of ethyl chloroformate was added to the obtained solution, and they were stirred for 15 minutes. The obtained precipitate was removed by the suction filtration. 1 g of ice and 0.47 g (12.5 mmol) of sodium borohydride were added to the filtrate under cooling with ice, and they were stirred overnight. The reaction mixture was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid | 8.3 mmol, 2.67 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=O)O)C=C1 | C17H23NO5
reactant | triethylamine | 12.5 mmol, 1.73 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 9.9 mmol, 0.95 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 12.5 mmol, 0.47 g | [BH4-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(1-t-butoxycarbonyl-4-piperidyloxy)-phenyl]methanol | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)CO | C17H25NO4
